US03994867
The monomer 2,4-hexadiyne-1,6-diol-bis-ethylurethane is synthesized in 95% yield by the reaction of 11.0 gm (0.10 mole) 2,4-hexadiyne-1,6-diol with 26.5 gm (0.37 mole) ethyl isocyanate in the presence of 1,2-dimethoxyethane (50 ml), dibutyl-tin-2-ethylhexoate (0.1 gm), and triethylamine (2 ml). The monomer is recrystallized as approximately 3 cm long needles by the slow cooling of a 10:90 acetone/petroleum ether solution (75ml) containing 0.2 gm sample, as described in Example 4. These crystals rapidly turn pink upon exposure to light. Polymerization proceeded quantitatively by 60 Co α -ray irradiation at a dose rate of 1 Mrad/hr and a total dosage of 60 Mrad. The resulting polymer fibers are copper-like in appearance and strongly dichroic, with dichroic axis in the fiber axis direction. The polymer fibers are monoclinic monocrystals in which the polymer chain axis, with repeat length 4.9 A, is in a non-unique axis direction. The polymer fibers are annealed as described in Examples 4 and 5, in order to obtain reversible thermal-dimensional behavior. The annealed polymer fiber has a negative thermal expansion coefficient over the entire temperature range from -50° to 100°C. The average thermal expansion coefficient is -1.46 × 10-5 °C-1 between -50° and +100°C amd -1.31 × 10-5 °C-1 between -50° and +40°C.

reactant | 2,4-hexadiyne-1,6-diol | 0.10 mole, 11.0 gm | C(C#CC#CCO)O | C6H6O2
reactant | ethyl isocyanate | 0.37 mole, 26.5 gm | C(C)N=C=O | C3H5NO
reactant | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
catalyst | copper | [Cu] | Cu
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 2,4-hexadiyne-1,6-diol bis-ethylurethane | 95% yield | C(C#CC#CCO)O.C(C)N(C(=O)OCC)CC | InChI=1S/C7H15NO2.C6H6O2/c1-4-8(5-2)7(9)10-6-3;7-5-3-1-2-4-6-8/h4-6H2,1-3H3;7-8H,5-6H2
